US04963543
A solution of (2S, 4R)-2-[(t-butoxycarbonylamino)methylcarbonyl]aminomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (5.30 g) in a mixture of anisole (1 ml) and trifluoroacetic acid (50 ml) was stirred at ambient temperature for 1 hour. The mixture was evaporated under reduced pressure to give (2S, 4R)-2-(aminomethylcarbonyl)aminomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine. To a solution of the compound obtained above in a mixture of water (25 ml) and tetrahydrofuran (25 ml) was added a solution of potassium cyanate (4.75 g) in water (15 ml) at 40°~50° C., keeping the pH between 4-5 with concentrated hydrochloric acid. Tetrahydrofuran was removed by evaporation to give an aqueous solution. The aqueous solution was adjusted to pH 6.0 with 1N hydrochloric acid, subjected to a column chromatography on nonionic adsorption resin, "Diaion HP-20" (50 ml), washed with water, and eluted with a mixture of methanol and water (50:50 v/v). The fractions containing the desired compound were collected, concentrated under reduced pressure, and recrystallized from a mixture of methanol and diisopropyl ether to give (2S, 4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[(ureidomethylcarbonyl)aminomethyl]pyrrolidine (3.93 g).

reactant | (2S, 4R)-2-[(t-butoxycarbonylamino)methylcarbonyl]aminomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 5.30 g | C(C)(C)(C)OC(=O)NCC(=O)NC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H28N4O8
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S, 4R)-2-(aminomethylcarbonyl)aminomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | NCC(=O)NC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H20N4O6
